US05075330
According to the procedure of Example 62, 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine is reacted with 1.1 eq of ethyl malonyl chloride in dioxane/water (1:1) in the presence of sodium acetate (2.5 eq). The crude product is purified by column chromatography (silica gel, 3:7 acetone:hexane). The product crystallizes from the chromatography solvents upon standing to give pure 3-[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]-3-oxopropanoic acid, ethyl ester (24%); mp 170°-171° C. dec.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | ethyl malonyl chloride | 1.1 eq | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | sodium acetate | 2.5 eq | C(C)(=O)[O-].[Na+]
reactant | dioxane water | O1CCOCC1.O
product | 3-[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]-3-oxopropanoic acid, ethyl ester | 24% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(CC(=O)OCC)=O)O)C)C=C1 | C23H23ClN2O6
